US07524849B2
To 20 mL of methyl alcohol is added sodium (109 mg, 4.74 mmol) with stirring. After disappearance of the solid, 2-pyrazinecarbonitrile (5.0 g, 47.6 mmol) is added. The mixture is stirred at room temperature for 6 h, and ammonium chloride (2.8 g, 52.3 mmol) is added. The mixture is then stirred at room temperature for 18 h. Diethyl ether (50 mL) is added to the reaction mixture, and the precipitates are collected by filtration. The solid was washed with diethyl ether (×2) and dried in vacuum oven to give 2-pyrazinecarboxamidine hydrochloride as a white solid (6.5 g). MS: m/z 123.1 (M+H).

reactant | methyl alcohol | 20 mL | CO | CH4O
reactant | sodium | 4.74 mmol, 109 mg | [Na] | Na
reactant | 2-pyrazinecarbonitrile | 47.6 mmol, 5.0 g | N1=C(C=NC=C1)C#N | C5H3N3
reactant | ammonium chloride | 52.3 mmol, 2.8 g | [Cl-].[NH4+]
solvent | Diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-pyrazinecarboxamidine hydrochloride | 6.5 g | Cl.N1=C(C=NC=C1)C(=N)N | InChI=1S/C5H6N4.ClH/c6-5(7)4-3-8-1-2-9-4;/h1-3H,(H3,6,7);1H
